* source I-NAND
M_M5         OUT IN1 VDD VDD CMOSP  
+ L=.2u  
+ W=.18u         
M_M6         OUT IN1 N39991 0 CMOSN  
+ L=.2u  
+ W=.19u         
M_M2         N39991 IN1 0 0 CMOSN  
+ L=.2u  
+ W=.19u         
M_M4         OUT IN1 VDD VDD CMOSP  
+ L=.2u  
+ W=.18u         
V_V1         VDD 0 3.3
V_V2         IN1 0 0Vdc
